US05580872
Step 2: 1-Ethyl-8-(3-methyl-1-piperazinyl)-4H-quinolizin-4-one-3-carboxylic acid hydrochloride
To a suspension of 0.686 g (2 mmol) of ethyl 1-ethyl-8-(3-methyl-1-piperazinyl)-4H-quinolizin-4-one-3-carboxylate, from Step 1, in 8 mL of THF was added 8.0 mL of a 1.0N aqueous sodium hydroxide solution and the reaction mixture was heated, with stirring, at 65° C. for 3 hours. The THF was removed from the reaction mixture by distillation during the reaction. The concentrated reaction mixture was cooled to ambient temperature and adjusted to pH 1-2 with 16 mL of 1N aqueous hydrochloric acid solution. The aqueous solution was concentrated in vacuo to remove the water and the residue was suspended in 10 mL of water. The solid was collected by filtration and dried in, vacuo to afford the 385 mg (55% yield) of the title compound, m.p.>295° C.; MS DCI-NH3 : 316 (M-Cl)+ ; IR (KBr): 3420 (OH), 1720 (C=O) cm-1 ; 1H NMR (TFA) d 1.50 (t, 3H, J=7.5 Hz), 1.70 (d, 3H, J=6 Hz), 3.00 (q, 2H, J=7.5 Hz), 3.70-4.10 (m, 6H), 4.55 (m, 1H), 4.60 (m, 1H), 7.40 (d, 1H, J=3.0 Hz), 7.68 (dd, 1H, J=3.0 Hz, 8.4 Hz), 8.18 (s, 1H), 9.19 (d, 1H, J=8.4 Hz). Analysis calculated for C17H22ClN3O3 +H2O: C, 55.21; H, 6.54; N, 11.36. Found: C, 55.19; H, 6.07; N, 11.34.

reactant | ethyl 1-ethyl-8-(3-methyl-1-piperazinyl)-4H-quinolizin-4-one-3-carboxylate | 2 mmol, 0.686 g | C(C)C=1C=C(C(N2C=CC(=CC12)N1CC(NCC1)C)=O)C(=O)OCC | C19H25N3O3
reactant | sodium hydroxide | 1.0N | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 16 mL | Cl | ClH
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 1-Ethyl-8-(3-methyl-1-piperazinyl)-4H-quinolizin-4-one-3-carboxylic acid hydrochloride | 385 mg, 55% yield | Cl.C(C)C=1C=C(C(N2C=CC(=CC12)N1CC(NCC1)C)=O)C(=O)O | InChI=1S/C17H21N3O3.ClH/c1-3-12-8-14(17(22)23)16(21)20-6-4-13(9-15(12)20)19-7-5-18-11(2)10-19;/h4,6,8-9,11,18H,3,5,7,10H2,1-2H3,(H,22,23);1H
